US08633173B2
To a cooled, stirred solution of 2-amino-benzoic acid ethyl ester (10.0 g, 60.5 mmol) in ether (50 mL) at 5° C. was added triethylamine (8.44 mL, 60.5 mmol). methanesulfonyl chloride (4.68 mL, 60.5 mmol) in ethyl acetate (50 mL) was added dropwise to the mixture, was stirred for 1 hour at 5° C. then at room temperature for 18 hours. Water (100 mL) was added to the stirring mixture and was extracted with ethyl acetate (3×50 mL). The combined organic was washed with water (2×50 mL) and saturated aqueous sodium chloride. The organic layer was dried over magnesium sulfate, filtered and evaporated. The residue was stirred with warm methanol (30 mL) for 30 minutes and cooled to room temperature. The crystalline material was filtered and rinsed with a minimum of methanol. 2-Methanesulfonylamino-benzoic acid ethyl ester was isolated as a white solid (7.0 g, 48%). 1H NMR (400 MHz, CDCl3, δ, ppm): 10.52 (br s, 1H), 8.07 (d, J=8.0 Hz, 1H), 7.74 (d, J=8.5 Hz, 1H), 7.56 (t, J=7.8 Hz, 1H), 7.13 (t, J=7.7 Hz, 1H), 4.40 (q, J=7.0 Hz, 2H), 3.06 (s, 3H), 1.42 (t, J=7.0 Hz, 3H). MS=266 (M+Na)+.

reactant | 2-amino-benzoic acid ethyl ester | 60.5 mmol, 10.0 g | C(C)OC(C1=C(C=CC=C1)N)=O | C9H11NO2
reactant | triethylamine | 60.5 mmol, 8.44 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 60.5 mmol, 4.68 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 100 mL | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methanesulfonylamino-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)NS(=O)(=O)C)=O | C10H13NO4S
